US07473669B2
Preparation of 3-(3-Benzylphenyl)-1-(2,2,2-trifluoroethyl)-1,2,4-triazin-6(1H)-one (Compound 91)
A solution of 3-(3-benzylphenyl)-1-(2,2,2-trifluoroethyl)-4,5-dihydro-1,2,4-triazin-6(1H)-one (0.284 g, 0.8 mmol) and 2,3-dichloro-5,6-dicyano-1,4-quinone (DDQ, 0.204 g, 0.9 mmol) in ethyl acetate (9 mL) was refluxed for 5 hours, concentrated under reduced pressure, dissolved in methylene chloride (120 mL), washed with saturated aqueous sodium carbonate (2×60 mL), brine (70 mL), dried over magnesium sulfate and eluted through a silica gel plug. The filtrates were concentrated under reduced pressure to leave an amorphous yellow solid. Yield 0.267 g (95 percent). mp 95-96° C.; 1H NMR (CDCl3) δ 8.54 (s, 1H), 8.00 (s, 1H), 7.98 (d, J=9.0 Hz, 1H), 7.39 (t, J=7.5 Hz, 1H), 7.32-7.28 (m, 3H), 7.23-7.20(m, 3H), 4.76 (q, J=7.8 Hz, 2H), 4.06 (s, 2H); ES/MS 346 m/e (M+1); IR (KBr) σ cm−1 1688.

reactant | 3-(3-benzylphenyl)-1-(2,2,2-trifluoroethyl)-4,5-dihydro-1,2,4-triazin-6(1H)-one | 0.8 mmol, 0.284 g | C(C1=CC=CC=C1)C=1C=C(C=CC1)C1=NN(C(CN1)=O)CC(F)(F)F | C18H16F3N3O
reactant | KBr | [K+].[Br-]
solvent | ethyl acetate | 9 mL | C(C)(=O)OCC | C4H8O2
product | 3-(3-Benzylphenyl)-1-(2,2,2-trifluoroethyl)-1,2,4-triazin-6(1H)-one | C(C1=CC=CC=C1)C=1C=C(C=CC1)C1=NN(C(C=N1)=O)CC(F)(F)F | C18H14F3N3O
